US06645997B2
Step A: Ethyl-7-hydroxychromane-2-carboxylate
To a large hydrogenation vessel were added ethyl 7-hydroxychromone-2-carboxylate (=ethyl 7-hydroxy-4-oxo-4H-chromene-2-carboxylate) (675.4 g, 2.88 mol), EtOH 4 liters, conc. hydrochloric acid 40 ml. The resulting suspension was combined with 5% Pd/C 68 g, and subjected to hydrogenation condition (H2, 40 psi, rt) overnight. The reaction mixture was filtered through a pad of celite to remove the catalyst. The filtrate was concentrated to give thick oily material, which solidified upon standing. Tan solid 630.1 g (98%).

reactant | ethyl 7-hydroxychromone-2-carboxylate | 2.88 mol, 675.4 g | OC1=CC=C2C(C=C(OC2=C1)C(=O)OCC)=O | C12H10O5
reactant | hydrochloric acid | 40 ml | Cl | ClH
catalyst | Pd/C | 68 g | [Pd] | Pd
solvent | EtOH | 4 liters | CCO | C2H6O
product | Ethyl-7-hydroxychromane-2-carboxylate | C(C)OC(=O)C1OC2=CC(=CC=C2CC1)O | C12H14O4
